US07943669B2
Step A: {4-[3-(2-Ethyl-butoxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester
The title product was prepared from 4-(3-Bromo-5-cyclopentyloxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester (200 mg; 0.42 mmol) and 4-prop-2-ynyl-morpholine (156.0 mg; 1.26 mmol) applying the procedure described for {4-[3-[2-(4-Chloro-phenyl)ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester. The crude product was purified by preparative HPLC (method B). Yield: 210 mg (95%). HPLC-MS: m/z: 526.2 (M+H)+; Rt: 2.23 min

reactant | acetic acid ethyl ester | 0.42 mmol, 200 mg | C(C)OC(C)=O | C4H8O2
reactant | 4-prop-2-ynyl-morpholine | 1.26 mmol, 156.0 mg | C(C#C)N1CCOCC1 | C7H11NO
reactant | {4-[3-[2-(4-Chloro-phenyl)ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)CO)OCCC1=CC=C(C=C1)Cl)C)=O | C34H31ClO5S
product | {4-[3-(2-Ethyl-butoxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC(CC)CC)C)=O | C30H39NO5S
